MM3 (VOUT1 net17 VDD VDD) pmos4
MM2 (net17 net17 VDD VDD) pmos4
MM7 (net9 net12 net13 net22) pmos4
MM6 (net15 VSS net13 net22) pmos4
MM5 (net13 net1004 VDD VDD) pmos4
MM1 (VOUT1 net9 VSS VSS) nmos4
MM0 (net17 net15 VSS VSS) nmos4
MM9 (net9 net9 VSS VSS) nmos4
MM8 (net15 net15 VSS VSS) nmos4
MM4 (net1004 VB1 VSS VSS) nmos4
MM2 (VB1 VB1 VSS VSS) nmos4
MM10 (neta net1007 VSS VSS) nmos4
MM3 (net1004 net1004 VDD VDD) pmos4
MM1 (VB1 neta VDD VDD) pmos4
MM0 (neta neta VDD VDD) pmos4
MM2 (VB2 net1007 VSS VSS) nmos4
MM0 (net1007 net1007 VSS VSS) nmos4
MM3 (VB2 VB2 VDD VDD) pmos4
MM1 (net1007 VB2 VDD VDD) pmos4
M12 (VIN1 VCLK1 net11 VSS) nmos4
M13 (net11 VCLK2 net12 VSS) nmos4
C1 (net12 VOUT1) capacitor
C0 (net11 VSS) capacitor